US09216999B2
3-(2,2,2-Trifluoroethoxy)azetidine hydrochloride
tert-Butyl 3-(2,2,2-trifluoroethoxy)azetidine-1-carboxylate (350 mg, 1.37 mmol) in ethyl acetate (1.0 mL) was mixed with 4 M hydrogen chloride-1,4-dioxane solution (3.0 mL) under cooling with ice and then stirred at room temperature for 2 hours. The reaction mixture was concentrated to give a mixture containing the title compound as a colorless oil (224 mg). The mixture was used for next step without further purification.

reactant | tert-Butyl 3-(2,2,2-trifluoroethoxy)azetidine-1-carboxylate | 1.37 mmol, 350 mg | FC(COC1CN(C1)C(=O)OC(C)(C)C)(F)F | C10H16F3NO3
reactant | hydrogen chloride-1,4-dioxane | 4 M, 3.0 mL | O1CCOCC1.Cl
solvent | ethyl acetate | 1.0 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2,2,2-Trifluoroethoxy)azetidine hydrochloride | 224 mg | Cl.FC(COC1CNC1)(F)F | InChI=1S/C5H8F3NO.ClH/c6-5(7,8)3-10-4-1-9-2-4;/h4,9H,1-3H2;1H
